US07652049B2
Ethyl 3-[3,5-bis(trifluoromethyl)phenyl]acrylate (170 mg, 0.54 mmol) and nitromethane (736 uL, 10.29 mmol) were treated with a solution of tetrabutylammonium hydroxide (1.0 M solution in MeOH, 1.5 mL) and the mixture heated to reflux for 3 h, diluted with 10% aqueous ammonium chloride (10 mL) and extracted with EtOAC (4×30 mL). The combined organic extracts were washed with 10% ammonium chloride (20 mL), dried over MgSO4, concentrated in vacuo to give the crude product. This was purified by flash chromatography using 10% EtOAC/hexanes to afford methyl 3-[3,5-bis(trifluoro methyl)phenyl]-4-nitropentanoate as a colorless oil. 1H NMR (CDCl3, 500 MHz) δ 7.82 (br s 1H), 7.64 (br s, 2H), 4.91 (m, 1H), 3.91 (m, 1H), 3.61 (s, 3H), 2.82 (m, 2H), 1.42 (d, J=6.7 Hz, 3H).

reactant | Ethyl 3-[3,5-bis(trifluoromethyl)phenyl]acrylate | 0.54 mmol, 170 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C=CC(=O)OCC)(F)F | C13H10F6O2
reactant | nitromethane | 10.29 mmol, 736 uL | [N+](=O)([O-])C | CH3NO2
reactant | tetrabutylammonium hydroxide | 1.0 M, 1.5 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
product | methyl 3-[3,5-bis(trifluoro methyl)phenyl]-4-nitropentanoate | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CC(=O)OC)C(C)[N+](=O)[O-])(F)F | C14H13F6NO4
